US09226922B2
tert-Butyl((3S,4R)-1-methyl-4-phenylpyrrolidin-3-yl)carbamate (521 mg, 1.885 mmol) was dissolved in methanolic HCl, (3 N, 10 mL) and heated to 50° C. for 2 h. The reaction mixture was concentrated in vacuo to afford (3S,4R)-1-methyl-4-phenylpyrrolidin-3-amine hydrochloride, which was carried onto the next step without further purification. MS ESI calc'd. For C11H16N2 [M+1]+ 177. found 177.

reactant | tert-Butyl((3S,4R)-1-methyl-4-phenylpyrrolidin-3-yl)carbamate | 1.885 mmol, 521 mg | C(C)(C)(C)OC(N[C@@H]1CN(C[C@H]1C1=CC=CC=C1)C)=O | C16H24N2O2
reactant | HCl | 3 N, 10 mL | Cl | ClH
product | (3S,4R)-1-methyl-4-phenylpyrrolidin-3-amine hydrochloride | Cl.CN1C[C@H]([C@@H](C1)C1=CC=CC=C1)N | InChI=1S/C11H16N2.ClH/c1-13-7-10(11(12)8-13)9-5-3-2-4-6-9;/h2-6,10-11H,7-8,12H2,1H3;1H/t10-,11+;/m0./s1
